US07091199B1
Preparation of [2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-thiophen-3-yl-methylamine (Scheme I, Compound 1)
The title compound is prepared from 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole, potassium carbonate, thiophen-3-yl-methylamine (prepared according to Synthetic Metals, 26 (1988)153–168) and acetonitrile essentially as described above in example 18, except that water (0.40 mL) is added to the reaction mixture before heating. Purity by LC/MS (APCI)=100%, [M+H]+=357.

reactant | 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole | BrCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C13H10BrNO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | thiophen-3-yl-methylamine | S1C=C(C=C1)NC | C5H7NS
reactant | acetonitrile | C(C)#N | C2H3N
solvent | water | 0.40 mL | O | H2O
product | [2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-thiophen-3-yl-methylamine | O1N=C(C2=C1C=CS2)C=2C=C(OCCN(C)C1=CSC=C1)C=CC2 | C18H16N2O2S2
